### ISSUE TITLE
ServerError

### ISSUE THREAD

**Issue by BoltonBailey** [0art0/kimina#3]
After setting up with `uv`, and writing the following file 

```lean
import Kimina
import Lean

example (a b c : Nat) : a + b + c = c + b + a := by
  kimina
```

I get the following error on the server:

```
> uv run kimina_server.py
2025-04-27 15:16:44,619 - __main__ - INFO - Loading model: AI-MO/Kimina-Prover-Preview-Distill-1.5B
2025-04-27 15:16:45,032 - __main__ - INFO - Tokenizer loaded: Qwen2TokenizerFast
Sliding Window Attention is enabled but not implemented for `sdpa`; unexpected results may be encountered.
2025-04-27 15:16:46,449 - __main__ - INFO - Model loaded: Qwen2ForCausalLM
2025-04-27 15:16:46,450 - __main__ - INFO - Using device: cpu
2025-04-27 15:16:46,452 - __main__ - INFO - Starting server on 0.0.0.0:8000 with model size 1.5B
INFO:     Started server process [5506]
INFO:     Waiting for application startup.
INFO:     Application startup complete.
INFO:     Uvicorn running on http://0.0.0.0:8000 (Press CTRL+C to quit)
2025-04-27 15:16:57,545 - __main__ - INFO - Processing request with 305 characters
2025-04-27 15:16:58,431 - __main__ - ERROR - Error in generate: probability tensor contains either `inf`, `nan` or element < 0
Traceback (most recent call last):
  File "/Users/boltonbailey/Documents/MyDocuments/Professional/numina-all-files/kimina/kimina_server.py", line 114, in generate
    outputs = model.generate(**generate_params)
  File "/Users/boltonbailey/Documents/MyDocuments/Professional/numina-all-files/kimina/.venv/lib/python3.10/site-packages/torch/utils/_contextlib.py", line 116, in decorate_context
    return func(*args, **kwargs)
  File "/Users/boltonbailey/Documents/MyDocuments/Professional/numina-all-files/kimina/.venv/lib/python3.10/site-packages/transformers/generation/utils.py", line 2465, in generate
    result = self._sample(
  File "/Users/boltonbailey/Documents/MyDocuments/Professional/numina-all-files/kimina/.venv/lib/python3.10/site-packages/transformers/generation/utils.py", line 3476, in _sample
    next_tokens = torch.multinomial(probs, num_samples=1).squeeze(1)
RuntimeError: probability tensor contains either `inf`, `nan` or element < 0
INFO:     127.0.0.1:63077 - "POST /generate HTTP/1.1" 500 Internal Server Error
```

Is this a symptom of my installing it wrong, or is there a problem with the server itself?

**Comment by 0art0** [comment]
I tried this example out locally and it seems to work for me:
```
❯ uv run kimina_server.py 
2025-05-02 08:07:20,359 - __main__ - INFO - Loading model: AI-MO/Kimina-Prover-Preview-Distill-1.5B
2025-05-02 08:07:21,020 - __main__ - INFO - Tokenizer loaded: Qwen2TokenizerFast
Sliding Window Attention is enabled but not implemented for `sdpa`; unexpected results may be encountered.
2025-05-02 08:07:27,097 - __main__ - INFO - Model loaded: Qwen2ForCausalLM
2025-05-02 08:07:27,104 - __main__ - INFO - Using device: cpu
2025-05-02 08:07:27,114 - __main__ - INFO - Starting server on 0.0.0.0:8000 with model size 1.5B
INFO:     Started server process [4630]
INFO:     Waiting for application startup.
INFO:     Application startup complete.
INFO:     Uvicorn running on http://0.0.0.0:8000 (Press CTRL+C to quit)
2025-05-02 08:07:57,466 - __main__ - INFO - Processing request with 305 characters
2025-05-02 08:07:58,155 - __main__ - INFO - Processing request with 305 characters
2025-05-02 08:16:17,433 - __main__ - INFO - Generated 3007 characters
INFO:     127.0.0.1:45752 - "POST /generate HTTP/1.1" 200 OK
2025-05-02 08:16:56,635 - __main__ - INFO - Generated 3318 characters
INFO:     127.0.0.1:45748 - "POST /generate HTTP/1.1" 200 OK
```

This is the output copy-pasted from the infoview:
```
Kimina proof suggestion: ring
Messages (4)
Test.lean:5:2
⚠ The tactic suggestion does not parse in the current context, displaying plain text instead:
<input>:1:1: unknown tactic
Test.lean:5:2
Kimina proof suggestion: ring
Test.lean:5:2
[kimina] Reasoning trace ▼

  # Solving the Algebraic Expression Problem in Lean 4
  
  I'll work through proving that for natural numbers a, b, and c, the expression a + b + c = c + b + a holds. This is a fundamental property of natural numbers that addition is commutative and associative.
  
  First, let's think about how to prove this in Lean 4. We need to show that for any natural numbers a, b, and c, the equation a + b + c = c + b + a is true. 
  
  In Lean, we'll start by importing the necessary libraries:
  
  
  [tactics] 🖥️ ▼
    import Kimina
    import Lean
    
Now we need to define the theorem statement. We want to prove that for any natural numbers a, b, and c, the equation a + b + c = c + b + a holds:
  
  
  [tactics] 🖥️ ▼
    example (a b c : Nat) : a + b + c = c + b + a := by
    
Now we have the theorem statement. We need to prove it. 
  
  In Lean, proving simple arithmetic facts like this can be done directly using the built-in simplification capabilities. The `ring` tactic is powerful for proving equalities of algebraic expressions, and it can handle the commutativity and associativity of addition for natural numbers.
  
  Let's complete the proof using the `ring` tactic:
  
  
  [tactics] 🖥️ ▼
    ring
    
The `ring` tactic is able to prove this equality because:
  1. It knows that addition of natural numbers is commutative: a + b = b + a
  2. It knows that addition is associative: (a + b) + c = a + (b + c)
  3. It can rearrange terms to show that a + b + c = c + b + a
  
  More specifically, the `ring` tactic is proving that:
  - a + b + c = (a + b) + c (associativity)
  - (a + b) + c = a + (b + c) (associativity)
  - a + (b + c) = a + b + c (reordering)
  - a + b + c = c + b + a (commutativity of addition)
  
  So the complete proof is:
  
  
  [tactics] 🖥️ ▼
    import Kimina
    import Lean
    
    example (a b c : Nat) : a + b + c = c + b + a := by 
      ring
    
This proof is concise because Lean's `ring` tactic is powerful enough to handle basic arithmetic properties like commutativity and associativity of addition for natural numbers. 
  
  The Lean 4 system has built-in knowledge of the properties of natural numbers and can use these to solve simple algebraic goals automatically. The `ring` tactic is specifically designed to solve goals involving equalities in commutative rings, which includes the natural numbers with their addition and multiplication operations.
  
  Therefore, the complete formal proof is just two lines: the import statements and the theorem statement with the `ring` tactic. This demonstrates how Lean can verify simple arithmetic facts with minimal ceremony, leveraging its built-in reasoning about the properties of natural numbers.
```

Could you try updating your dependencies and test it again?
